US07655649B2
Unpurified tert-butyl 4-(3-oxo-3-pyridin-2-ylpropanoyl)piperidine-1-carboxylate (2.00 g, 6.02 mmol) was dissolved in 20 ml of EtOH and hydrazine hydrate (0.321 ml, 6.62 mmol) was added and the reaction was warmed to 80° C. After 15 h the reaction was concentrated in vacuo and the residue was purified by flash column chromatography (dissolve in DCM, elute with 98:2 to 95:5 DCM/MeOH). tert-Butyl 4-(3-pyridin-2-yl-1H-pyrazol-5-yl)piperidine-1-carboxylate was obtained as a yellow oil. 1H NMR (CDCl3): δ 8.60 (m, 1H), 7.73 (dt, J=1.7, 7.6 Hz, 1H), 7.65 (d, J=7.8 Hz, 1H), 7.22 (m, 1H), 6.57 (s, 1H), 4.18 (bs, 2H), 2.89 (m, 4H), 2.00 (d, J=12.5 Hz, 2H), 1.67 (m, 2H), 1.48 (s, 9H). m/z (m+1): 329.2

reactant | tert-butyl 4-(3-oxo-3-pyridin-2-ylpropanoyl)piperidine-1-carboxylate | 6.02 mmol, 2.00 g | O=C(CC(=O)C1CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C18H24N2O4
reactant | hydrazine hydrate | 6.62 mmol, 0.321 ml | O.NN
solvent | EtOH | 20 ml | CCO | C2H6O
product | tert-Butyl 4-(3-pyridin-2-yl-1H-pyrazol-5-yl)piperidine-1-carboxylate | N1=C(C=CC=C1)C1=NNC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H24N4O2
